US07247734B2
Synthesis of 2-(4-Bromo-phenyl)-1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone
This compounds was synthesised in the same manner as described above. 4-Bromophenylacetic acid (7.44 g, 34.6 mmol), 4-chlororesorcinol (5 g, 34.6 mmol), boron trifloride etherate (30 ml). After standing for two hours an orange precipitate formed. This was purified by flash chromatography to give the required compound as an off white solid (10.5 g, 89%); Rf 0.9 hexane/ethyl acetate (20/80).

reactant | 4-Bromophenylacetic acid | 34.6 mmol, 7.44 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | 4-chlororesorcinol | 34.6 mmol, 5 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
solvent | boron trifloride etherate | 30 ml | B(F)(F)F.CCOCC
product | 2-(4-Bromo-phenyl)-1-(5-chloro-2,4-dihydroxy-phenyl)-ethanone | BrC1=CC=C(C=C1)CC(=O)C1=C(C=C(C(=C1)Cl)O)O | C14H10BrClO3
